US05559113
15 ml of freshly distilled tetrahydrofuran, 340 mg (2.1 mmol) of 4-trifluoromethylphenol and 550 mg (2.1 mmol) of triphenylphosphine are added under nitrogen to 708 g (2 mmol) of 1-triphenylmethyl-4-(2-hydroxyethyl)-1H-imidazole. The resulting mixture is cooled and stirred for 5 min. 66 mg (2.1 mmol) of diethyl azodicarboxylate in 10 ml of tetrahydrofuran are then slowly added. Stirring is continued at room temperature for 2 hours under nitrogen. The solvent is then evaporated under reduced pressure and the residue is chromatographed on a column of silica gel, using diethyl ether as the eluent, to give 1-triphenylmethyl-4-[2-(4-trifluoromethylphenoxy)ethyl]-1H-imidazole.

reactant | 4-trifluoromethylphenol | 2.1 mmol, 340 mg | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | triphenylphosphine | 2.1 mmol, 550 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-triphenylmethyl-4-(2-hydroxyethyl)-1H-imidazole | 2 mmol, 708 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O
reactant | diethyl azodicarboxylate | 2.1 mmol, 66 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-triphenylmethyl-4-[2-(4-trifluoromethylphenoxy)ethyl]-1H-imidazole | C1(=CC=CC=C1)C(N1C=NC(=C1)CCOC1=CC=C(C=C1)C(F)(F)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H25F3N2O
